US08211908B2
To a solution of 1.00 g of tert-butyl 1,5-naphthyridin-3-ylcarbamate in 6 mL of methanol, 1 mL of a 12 mol/L aqueous hydrogen chloride solution was added, and the mixture was stirred for 30 minutes. To the reaction mixture, 5 mL of methanol and 1 mL of a 12 mol/L aqueous hydrogen chloride solution were added, and the mixture was stirred at 40° C. for 40 minutes, and at 80° C. for 40 minutes. In the reaction mixture, the solvent was distilled off under reduced pressure, the mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and then the solvent was distilled off under reduced pressure. The resultant residue was washed with ethanol and, in the mother liquid, the solvent was distilled off under reduced pressure, and the resultant residue was purified with silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd., and an eluent of chloroform:methanol=10:1 to obtain 0.50 g of 1,5-naphthyridin-3-amine as a yellow solid.

reactant | tert-butyl 1,5-naphthyridin-3-ylcarbamate | 1.00 g | N1=CC(=CC2=NC=CC=C12)NC(OC(C)(C)C)=O | C13H15N3O2
reactant | hydrogen chloride | 12 mol/L | Cl | ClH
reactant | hydrogen chloride | 12 mol/L | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 1,5-naphthyridin-3-amine | 0.50 g | N1=CC(=CC2=NC=CC=C12)N | C8H7N3
